US07750155B2
A solution of (2E)-3-[5-[{(3R)-1-(1-naphthylmethyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (350 mg) and 2N—HCl solution in EtOH (10 mL) was stirred for 2 hours at ambient temperature. AcOEt (10 ml) and IPE (50 ml) was added to the reaction mixture. The resulting solid was collected by filtration to give (2E)-N-hydroxy-3-[5-[{(3R)-1-(1-naphthylmethyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride (275 mg).

reactant | (2E)-3-[5-[{(3R)-1-(1-naphthylmethyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 350 mg | C1(=CC=CC2=CC=CC=C12)CN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C27H31N5O3
reactant | HCl | Cl | ClH
reactant | AcOEt | 10 ml | CCOC(=O)C | C4H8O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | (2E)-N-hydroxy-3-[5-[{(3R)-1-(1-naphthylmethyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride | 275 mg | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CC1)CC1=CC=CC2=CC=CC=C12)=O | InChI=1S/C22H23N5O2.2ClH/c28-22(26-29)9-8-18-12-24-21(13-23-18)25-19-10-11-27(15-19)14-17-6-3-5-16-4-1-2-7-20(16)17;;/h1-9,12-13,19,29H,10-11,14-15H2,(H,24,25)(H,26,28);2*1H/b9-8+;;/t19-;;/m1../s1
